US07943607B2
N-(1-Ethyl-1H-pyrazol-3-yl)-3-[(9-fluoro-4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-5-{[(S)-1-methyl-2-(methyloxy)ethyl]oxy}benzamide
A suspension of N-(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)-2,3,4-trifluoro-N-methylbenzamide (300 mg, 0.86 mmol), N-(1-ethyl-1H-pyrazol-3-yl)-3-hydroxy-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzamide (290 mg, 0.91 mmol) and potassium carbonate (237 mg, 1.73 mmol) in DMA (20 mL) was heated to 140° C. for 4 hours. The reaction was poured into water (100 mL) and extracted with ethyl acetate (3×50 mL). The combined organic phases were washed with brine (50 mL) and dried (MgSO4), filtered and evaporated to give an orange oil. This was purified by column chromatography on alumina, eluting with 30-100% ethyl acetate in isohexane, to give the desired product as a colourless oil (300 mg).

reactant | N-(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)-2,3,4-trifluoro-N-methylbenzamide | 0.86 mmol, 300 mg | CC(C)(C)[Si](OCCN(C(C1=C(C(=C(C=C1)F)F)F)=O)C)(C)C | C16H24F3NO2Si
reactant | N-(1-ethyl-1H-pyrazol-3-yl)-3-hydroxy-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzamide | 0.91 mmol, 290 mg | C(C)N1N=C(C=C1)NC(C1=CC(=CC(=C1)O[C@H](COC)C)O)=O | C16H21N3O4
reactant | potassium carbonate | 1.73 mmol, 237 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 mL | O | H2O
solvent | DMA | 20 mL | CC(=O)N(C)C | C4H9NO
product | N-(1-Ethyl-1H-pyrazol-3-yl)-3-[(9-fluoro-4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-5-{[(S)-1-methyl-2-(methyloxy)ethyl]oxy}benzamide | 300 mg | C(C)N1N=C(C=C1)NC(C1=CC(=CC(=C1)O[C@H](COC)C)OC1=C(C2=C(C(N(CCO2)C)=O)C=C1)F)=O | C26H29FN4O6
